US07405327B2
8. Preparation of bis(2-morpholinoethyl) ether (=dimorpholinodiglycol)
The pressure was set to a constant 16 bar absolute, the fresh gas flow was set to a constant 300 standard l/h of hydrogen and the circulating gas was set to a constant approx. 300 pressure liters/(lcat·h). Ammonia and diethylene glycol were vaporized separately and preheated diethylene glycol was then introduced into the hot circulating gas stream, after which hot ammonia was fed into the reactor via a pressurized gas pump. The laden circulating gas stream was reacted isothermally at 210° C. (+/−2° C.) and 16 bar over the catalyst in the tube reactor. The synthesis was carried out at a space velocity over the catalyst of 0.30 lalcohol/lcat·h, a molar ratio of ammonia/alcohol of 3:1 and an amount of fresh gas/H2 of 300 standard liters/lcat·h. 90% of the alcohol was reacted in the reaction end a selectivity of 50% based on the diol used was achieved. The product was condensed in a pressure gas separator and collected for purification by distillation.

reactant | hydrogen | [H][H] | H2
reactant | Ammonia | N | H3N
reactant | diethylene glycol | C(COCCO)O | C4H10O3
product | bis(2-morpholinoethyl) ether | O1CCN(CC1)CCOCCN1CCOCC1 | C12H24N2O3
